US06677352B1
To a solution of montmorillonite K10 (107.5 mg) in CHCl3 was added 13 uL of water. 2-anilino-7-(butylsulfanyl)-1-phenyl-5-(trifluoromethyl)-1,8-naphthyridin-4(1H)-one (25 mg, 0.06 mmol) was then added followed by oxone (85.2 mg, 0.14 mmol). The reaction was allowed to stir for 24 h at room temperature. After 24 h the solution was bright bluish-green in color and was filtered and washed with copious amounts of CHCl3. The filtrate was then concentrated in vacuo. Silica gel flash chromatography using 3:1 Hex:EtOAc provided 2-anilino-7-(butylsulfonyl)-1-phenyl-5-(trifluoromethyl)-1,8-naphthyridin-4(1H)-one as a yellow oil (13.8 mg, 46%): LCMS RT: 3.14, MH+502.2.

reactant | montmorillonite K10 | 107.5 mg | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
reactant | water | 13 uL | O | H2O
reactant | 2-anilino-7-(butylsulfanyl)-1-phenyl-5-(trifluoromethyl)-1,8-naphthyridin-4(1H)-one | 0.06 mmol, 25 mg | N(C1=CC=CC=C1)C=1N(C2=NC(=CC(=C2C(C1)=O)C(F)(F)F)SCCCC)C1=CC=CC=C1 | C25H22F3N3OS
reactant | oxone | 0.14 mmol, 85.2 mg | OOS(=O)[O-].[K+]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-anilino-7-(butylsulfonyl)-1-phenyl-5-(trifluoromethyl)-1,8-naphthyridin-4(1H)-one | 13.8 mg, 46% | N(C1=CC=CC=C1)C=1N(C2=NC(=CC(=C2C(C1)=O)C(F)(F)F)S(=O)(=O)CCCC)C1=CC=CC=C1 | C25H22F3N3O3S
